US04659718
7-Fluoro-1-methyl-3-(1-methyl-1H-tetrazol-5-yl)-4-quinolone (5 g) was added to a solution of sodium (0.9 g) in butanol (50 ml) and the mixture was heated at 100° for 19 hours. The mixture was poured into water (200 ml). The resulting precipitate was collected and recrystallised twice from industrial methylated spirit to give the novel compound 7-butoxy-1-methyl-3-(1-methyl-1H-tetrazol-5-yl)-4-quinolone, m.p. 187°-190°.

reactant | 7-Fluoro-1-methyl-3-(1-methyl-1H-tetrazol-5-yl)-4-quinolone | 5 g | FC1=CC=C2C(C(=CN(C2=C1)C)C1=NN=NN1C)=O | C12H10FN5O
reactant | sodium | 0.9 g | [Na] | Na
reactant | water | 200 ml | O | H2O
solvent | butanol | 50 ml | C(CCC)O | C4H10O
product | 7-butoxy-1-methyl-3-(1-methyl-1H-tetrazol-5-yl)-4-quinolone | C(CCC)OC1=CC=C2C(C(=CN(C2=C1)C)C1=NN=NN1C)=O | C16H19N5O2
